US06518267B1
a) 3-(2-Pyridyl)-phenyl Acetic Acid Methyl Ester
Methyl 3-bromophenylacetate (25 g, 0.109 mol), 2-(trifluoro-methylsulfonyloxy)-pyridine (24.8 g, 0.109 mol), anhydrous lithium chloride (13.89 g, 0.3275 mol), and tetrakis(triphenylphosphine)palladium (6.31 g, 0.0055 mol) were combined, followed by hexamethylditin (35.8 g, 0.109 mol) and anhydrous dioxane (300 ml). The mixture was stirred at reflux for 16h, cooled, and poured into 1:1 saturated KF-EtOAc (1.6 L). The mixture was stirred at RT for 2 h, filtered, and the filtrate was washed with saturated aqueous NaHCO3 (200 ml) and with brine (200 ml), dried (MgSO4), and concentrated in vacuo to give a brown oil. The residue was flash chromatographed (silica gel, 1:4 EtOAc:hexane) to give the title compound as a yellow oil (11.9 g. 48% yield): MS(ES+) 228.1 (MH+). cf. Tetrahedron Letters, 1995, 36, 9085-9088

reactant | Methyl 3-bromophenylacetate | 0.109 mol, 25 g | BrC=1C=C(C=CC1)CC(=O)OC | C9H9BrO2
reactant | 2-(trifluoro-methylsulfonyloxy)-pyridine | 0.109 mol, 24.8 g | FC(S(=O)(=O)OC1=NC=CC=C1)(F)F | C6H4F3NO3S
reactant | lithium chloride | 0.3275 mol, 13.89 g | [Cl-].[Li+]
reactant | hexamethylditin | 0.109 mol, 35.8 g | C[Sn](C)C.C[Sn](C)C
reactant | KF EtOAc | 1.6 L | [F-].[K+].CCOC(=O)C
catalyst | tetrakis(triphenylphosphine)palladium | 0.0055 mol, 6.31 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
product | 3-(2-Pyridyl)-phenyl Acetic Acid Methyl Ester | 11.9 g, 48% yield | COC(CC1=CC(=CC=C1)C1=NC=CC=C1)=O | C14H13NO2
